US06884821B1
1.9 g of 2-chloro-4-hydroxybenzoic acid was dissolved in 20 ml dimethylformamide, and 1.8 g of methyl iodide and 1.2 g of potassium bicarbonate were added, and the mixture was stirred at room temperature for 3 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was successively washed with 1N hydrochloric acid and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was subjected to silica gel column chromatography, and from fractions eluted with hexane-ethyl acetate (3:1), 1.7 g of methyl 2-chloro-4-hydroxybenzoate was obtained.

reactant | 2-chloro-4-hydroxybenzoic acid | 1.9 g | ClC1=C(C(=O)O)C=CC(=C1)O | C7H5ClO3
reactant | methyl iodide | 1.8 g | CI | CH3I
reactant | potassium bicarbonate | 1.2 g | C([O-])(O)=O.[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-chloro-4-hydroxybenzoate | 1.7 g | ClC1=C(C(=O)OC)C=CC(=C1)O | C8H7ClO3
